US05578620
Phenylthiomethyloxirane
A solution of 5.0 g of thiophenol in 30 ml of 1,4-dioxane was added dropwise at room temperature to a mixture of 6 ml of epibromohydrin, 5.45 g of sodium hydroxide and 30 ml of 1,4-dioxane, and then the mixture was stirred at room temperature for 36 hours. At the end of this time, insoluble solids were removed by filtration, the 1,4-dioxane was evaporated from the filtrate, water was added to the resulting residue, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was removed from the extract by evaporation under reduced pressure, and the resulting residue was purified by silica gel column chromatography, using a 1:10 by volume mixture of ethyl acetate and hexane as the eluent, to give 6.78 g of the title compound as a colorless oil having an Rf value of 0.60 (on silica gel thin layer chromatography, using a 1:10 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | thiophenol | 5.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | epibromohydrin | 6 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydroxide | 5.45 g | [OH-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Phenylthiomethyloxirane | 6.78 g | C1(=CC=CC=C1)SCC1OC1 | C9H10OS
